### PR TITLE
chore(MeasureTheory): generalize hypotheses to `NullMeasurableSet`

### PR DESCRIPTION
**Pull request by D-Thomine**
This PR generalizes many statements in `Mathlib.MeasureTheory` from `MeasurableSet s` to `NullMeasurableSet s μ`.

This is particularly useful for lemmas around uniform integrability. A few technical statements which existed only to work around issues of measurability are deprecated thanks to this: `MemLp.eLpNorm_indicator_le_of_meas`, `UniformIntegrable.spec'`, `MemLp.uniformIntegrable_of_identDistrib_aux`. This PR is a preliminary (and necessary)  work before a much more thorough refactor of `MeasureTheory.Function.UniformIntegrable`.

I have chosen to change the hypotheses in place (generalizing the lemmas) instead of adding variants with the new hypothesis, in order to limit quasi-duplicates. There are some limits to this strategy, and a few lemmas have now both `MeasurableSet` and `NullMeasurableSet` versions:
* either if the `MeasurableSet` version was tagged as `simp`;
* or `integrable_indicator_iff₀`, `setLIntegral_congr_fun_ae₀`, `setLIntegral_congr_fun₀`, `setLIntegral_eq_zero₀`, `lintegral_add_compl₀`, `setLIntegral_compl₀`.

The latter 6 lemmas account for the largest potential downstream effects of this PR. If I did not keep the former versions of these 6 lemmas, this PR would have affected five time as many files, including files in e.g. `Geometry` or `NumberTheory`. It seems reasonable that, for quality of life purposes, we keep a few files with `MeasurableSet` hypotheses which are widely used in settings where measurability is essentially a given.

Edit: Implementation note: Some lemmas (e.g. `UniformIntegrable.spec`) were previously proved in two steps. First a version for `Measurable`/`StronglyMeasurable` functions (in this instance, this is lemma `UniformIntegrable.spec'`), then a weakening of the measurability hypotheses. This PR makes it convenient to prove directly the more general version of these lemmas. In these case, I have put the more general lemmas (`UniformIntegrable.spec`) before, deduced the weaker version (`UniformIntegrable.spec'`) from it, and deprecated the latter. This strategy, however, makes the git diff somewhat annoying to read.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean [hunk 1]
```diff
@@ -331,21 +331,23 @@ section indicator
 -- All results in this section hold for any enormed monoid.
 variable {f : α → ε'}
 
-theorem integrable_indicator_iff (hs : MeasurableSet s) :
+theorem integrable_indicator_iff₀ (hs : NullMeasurableSet s μ) :
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Integral/IntegrableOn.lean:334]: You should depcrecate the old name (in case you didnt, maybe i overlooked it)

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 2]
```diff
@@ -260,7 +260,7 @@ theorem MemLp.integral_indicator_norm_ge_nonneg_le (hf : MemLp f 1 μ) {ε : ℝ
   simp only [Set.indicator_apply, coe_nnnorm, Set.mem_ofPred_eq, hx.symm]
 
 theorem MemLp.eLpNormEssSup_indicator_norm_ge_eq_zero (hf : MemLp f ∞ μ)
-    (hmeas : StronglyMeasurable f) :
+    (hmeas : AEStronglyMeasurable f μ) :
```
Comment (felixpernegger) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: I think it would help to split this PR up in slightly smaller pieces (unless this causes big annoyances)

I.e. first PR for the lemmas you need, second for Measurable => AEMeasurable and third for MeasurableSet => NullMeasurable or whatever

This would make reviewing somewhat easier

**Review by felixpernegger — COMMENTED** [review]
FYI I also have #42406 open (though i need to fix some stuff);

for this PR this is not a big issue, but later it will probably be a wise idea to have multiple large scale refactors around the same files open simultaneously :)

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 1 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean:334]: The bot says that no declaration has been removed, so hopefully everything is alright here.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean (hunk 2 above)
Comment (sgouezel) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: The PR is not that big, I can definitely review it. 

What bothers me more is the conflict between this one and #42406. I'd say #42406 is bigger and more painful, so to minimize the pain I think it would make sense to merge #42406 and then fix this one. @felixpernegger, do you know if you will have some time to work on #42406 in the near future, to take into account the review suggestions and fix the merge conflicts? Would you like some help on that front?

Comment (felixpernegger) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: I'll fix them and adress the review comments today then

File: Mathlib/MeasureTheory/Integral/IntegrableOn.lean (hunk 1 above)
Comment (D-Thomine) [reply Mathlib/MeasureTheory/Integral/IntegrableOn.lean:334]: The statement `integrable_indicator_iff` was moved just after that one (line 340), but the diff isn't very good, so it's easy to miss.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean (hunk 2 above)
Comment (D-Thomine) [reply Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: I've already tried to limit the size of the PR -- which is not that easy -- and I don't think you can split that easily the `AEMeasurable` aspect and the `NullMeasurableSet` one.

I've tried to keep all modifications coherent with the new convention given by #42406, so I don't think there will be significant conflict. I don't mind fixing this PR later.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean [hunk 3]
```diff
@@ -85,6 +85,20 @@ theorem eLpNorm'_le_mul_eLpNorm'_of_ae_le_mul {f : α → ε} {c : ℝ≥0∞} {
...
+  by_cases hmeas : AEStronglyMeasurable f μ; swap
+  · rw [eLpNorm_of_not_aestronglyMeasurable hmeas]; exact le_top
+  rw [eLpNorm_eq_lintegral_rpow_enorm_toReal hp hp' hmeas,
+    one_div, ENNReal.le_rpow_inv_iff (ENNReal.toReal_pos hp hp'),
+    ENNReal.mul_rpow_of_nonneg _ _ ENNReal.toReal_nonneg, ← ENNReal.rpow_mul,
+    inv_mul_cancel₀ (ENNReal.toReal_pos hp hp').ne', ENNReal.rpow_one, ← setLIntegral_const]
+  apply (lintegral_mono_ae _).trans (setLIntegral_le_lintegral s _)
+  rw [← ae_restrict_iff'₀ hs] at hf
+  filter_upwards [hf] with x hx
+  exact ENNReal.rpow_le_rpow hx ENNReal.toReal_nonneg
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean:100]: You can even remove the assumption `hs` as follows:
```suggestion
  rw [ae_restrict_iff₀]
  · filter_upwards [hf] with x hfx hx
    exact ENNReal.rpow_le_rpow (hfx hx) ENNReal.toReal_nonneg
  · exact nullMeasurableSet_le aemeasurable_const (by fun_prop)
```

File: Mathlib/MeasureTheory/Function/LpSpace/Indicator.lean [hunk 4]
```diff
@@ -136,7 +136,7 @@ theorem norm_indicatorConstLp_top (hμs_ne_zero : μ s ≠ 0) :
     ‖indicatorConstLp ∞ hs hμs c‖ = ‖c‖ := by
   rw [Lp.norm_def, eLpNorm_congr_ae indicatorConstLp_coeFn,
     eLpNorm_indicator_const' hs.nullMeasurableSet hμs_ne_zero ENNReal.top_ne_zero,
-    ENNReal.toReal_top, div_zero, ENNReal.rpow_zero, mul_one, toReal_enorm]
+      ENNReal.toReal_top, _root_.div_zero, ENNReal.rpow_zero, mul_one, toReal_enorm]
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/LpSpace/Indicator.lean:139]: revert this change?

Comment (D-Thomine) [reply Mathlib/MeasureTheory/Function/LpSpace/Indicator.lean]: Done. I can't remember why I did that.

File: Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean (hunk 3 above)
Comment (D-Thomine) [reply Mathlib/MeasureTheory/Function/LpSeminorm/Monotonicity.lean]: Nice find, thanks! Done.

File: Mathlib/MeasureTheory/Function/UniformIntegrable.lean [hunk 5]
```diff
@@ -385,30 +362,25 @@ section
...
-theorem MemLp.eLpNorm_indicator_le' (hp_one : 1 ≤ p) (hp_top : p ≠ ∞) (hf : MemLp f p μ)
-    (hmeas : StronglyMeasurable f) {ε : ℝ≥0∞} (hε : 0 < ε) :
-    ∃ δ > 0, ∀ s, MeasurableSet s → μ s ≤ δ → eLpNorm (s.indicator f) p μ ≤ 2 * ε := by
-  obtain ⟨M, hMpos, hM⟩ := hf.eLpNorm_indicator_norm_ge_pos_le hmeas hε
-  obtain ⟨δ, hδpos, hδ⟩ :=
-    eLpNorm_indicator_le_of_bound (f := { x | ‖f x‖ < M }.indicator f) hp_top hε
-      (hmeas.indicator (measurableSet_lt hmeas.nnnorm.measurable.subtype_coe
-        measurable_const)).aestronglyMeasurable (by
-      intro x
+theorem MemLp.eLpNorm_indicator_le' (hp_one : 1 ≤ p) (hp_top : p ≠ ∞) (hf : MemLp f p μ) {ε : ℝ≥0∞}
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/UniformIntegrable.lean]: Care making it private?

File: Mathlib/MeasureTheory/Function/UnifTight.lean [hunk 6]
```diff
@@ -253,13 +253,22 @@ private theorem unifTight_of_tendsto_Lp (hp' : p ≠ ∞) (hf : ∀ n, MemLp (f
   · exact unifTight_of_tendsto_Lp_zero hp' (fun n => (hf n).sub hg) hfg
 
 set_option linter.style.whitespace false in -- manual alignment is not recognised
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/UnifTight.lean]: can you remove it now?

File: Mathlib/MeasureTheory/Function/UnifTight.lean [hunk 7]
```diff
@@ -253,13 +253,22 @@ private theorem unifTight_of_tendsto_Lp (hp' : p ≠ ∞) (hf : ∀ n, MemLp (f
...
+  have hff'' := eventually_countable_forall.mpr hff'
+  filter_upwards [hff'', hgg', hfg] with x hff'x hgg'x hfgx
+  apply Tendsto.congr hff'x
+  rw [← hgg'x]; exact hfgx
+
+/-- Forward direction of Vitali's convergence theorem, with a.e. instead of `InMeasure`
+convergence -/
+theorem tendsto_Lp_of_tendsto_ae (hp : 1 ≤ p) (hp' : p ≠ ∞)
+    {f : ℕ → α → β} {g : α → β} (haef : ∀ n, AEStronglyMeasurable (f n) μ)
     (hg' : MemLp g p μ) (hui : UnifIntegrable f p μ) (hut : UnifTight f p μ)
```
Comment (sgouezel) [inline Mathlib/MeasureTheory/Function/UnifTight.lean]: I'm confused as to why we would need `hg'` here and in many theorems above. But that's not a question for this PR (and you're planning an overhaul of these files, right?)

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
